US05093366
3-(4-pentylphenyl)-2EZ-butenoic acid ethyl ester
Sodium hydride (28.6 g, content: 63%) was suspended in tetrahydrofuran (1000 ml). Diethyl ethoxycarbonylmethylphosphonate (168 g) dissolved in tetrahydrofuran (500 ml) was added dropwise into the mixture with cooling in an ice-bath over 30 mins. 4-Pentylacetophenone (95 g) in tetrahydrofuran (500 ml) was added to the solution. The solution was stirred overnight at a room temperature and then refluxed at 8 hrs. Tetrahydrofuran was evoporated from the reaction mixture. Diluted hydrochloric acid was added to the residue. The acidic solution was extracted with ethyl acetate. The ertract was dried over magnesium sulfate and evaporated. The residue was purified by column chromatography on silica gel (n-hexane:ethyl acetate=99:1→98:2→95:5) to give the title compound (128 g) having the following physical data:

reactant | Sodium hydride | 28.6 g | [H-].[Na+]
reactant | Diethyl ethoxycarbonylmethylphosphonate | 168 g | C(C)OC(=O)CP(OCC)(OCC)=O | C8H17O5P
reactant | 4-Pentylacetophenone | 95 g | CCCC(C)CC(=O)C1=CC=CC=C1 | C13H18O
reactant | hydrochloric acid | Cl | ClH
reactant | tetrahydrofuran | 1000 ml | O1CCCC1 | C4H8O
reactant | tetrahydrofuran | 500 ml | O1CCCC1 | C4H8O
reactant | tetrahydrofuran | 500 ml | O1CCCC1 | C4H8O
product | 3-(4-pentylphenyl)-2EZ-butenoic acid ethyl ester | 128 g | C(C)OC(C=C(C)C1=CC=C(C=C1)CCCCC)=O | C17H24O2
